US05304645
a) 2-Methyl-4-nitrosoresorcinol
19.8 g. 2-Methylresorcinol and 13.4 g. potassium hydroxide are dissolved in 120 ml. ethanol and cooled to 5° C. 24 ml. Isopentyl nitrite are added dropwise thereto, the reaction mixture is stirred for 3 hours and the precipitate is filtered off with suction. The yellow solid material is stirred into 200 ml. 5N sulphuric acid, the bright yellow product thereby precipitating out. Yield 22 g.

reactant | 2-Methylresorcinol | CC1=C(O)C=CC=C1O | C7H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | Isopentyl nitrite | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-nitrosoresorcinol | CC1=C(O)C=CC(=C1O)N=O | C7H7NO3
